spice
* SPICE Netlist for the given schematic

VCC 2 0 DC 2.5V
Vin 3 0 AC 1.0V

RB 2 4 1k
RC 2 5 1k
CB 3 4 10u

Q1 5 4 0 NPN

.model NPN NPN (IS=1e-14 BF=100 VAF=100)

* Connectors
Vout 5 0

* End of Netlist